US04940710
1-Ethyl-6-fluoro-1,4-dihydro-7-[3-(3-methyl-2-thienyl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid
A 3.64 g portion of 2-(3-methyl-2-thienyl)piperazine was added to 10 ml of pyridine followed by 1.35 g of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid. The mixture was placed in a pressure bottle, under argon, sealed and heated at 120°-130° C., with stirring for 18 hours. The solvent was removed and the residue purified by chromatography, eluting with chloroform:methanol (9:1), giving 135 mg of the desired product, mp 252°-255° C. (dec.).

reactant | 2-(3-methyl-2-thienyl)piperazine | CC1=C(SC=C1)C1NCCNC1 | C9H14N2S
reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.35 g | ClC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C12H9ClFNO3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-6-fluoro-1,4-dihydro-7-[3-(3-methyl-2-thienyl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid | 135 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C=1SC=CC1C)F)=O)C(=O)O | C21H22FN3O3S
